US08629137B2
Step 2: (4-benzyloxy-3,5-dimethyl-phenyl)-(6-chloro-pyrimidin-4-yl)-methanone
Under an argon atmosphere 2.8 mL (4.5 mmol) of a 1.6 M n-butyllithium solution were added to a mixture of 1.2 g (4.0 mmol) 2-benzyloxy-5-bromo-1,3-dimethyl-benzene in mL THF cooled to −75° C. and the mixture was stirred for 1 h at −75° C. Then 0.96 g (4.3 mmol) 6-chloro-pyrimidine-4-carboxylic acidmethoxy-methyl-amide, dissolved in 10 mL THF, were added dropwise. After another 30 min stirring at −75° C. the reaction mixture was slowly heated to 0° C. The mixture was combined with saturated sodium hydrogen carbonate solution and extracted with diethyl ether. The organic phase was dried and evaporated down. The residue was purified by flash chromatography.

reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | 2-benzyloxy-5-bromo-1,3-dimethyl-benzene | 4.0 mmol, 1.2 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1C)Br)C | C15H15BrO
reactant | 6-chloro-pyrimidine-4-carboxylic acidmethoxy-methyl-amide | 4.3 mmol, 0.96 g | CON(C(=O)C1=NC=NC(=C1)Cl)C | C7H8ClN3O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | mL | C1CCOC1 | C4H8O
product | (4-benzyloxy-3,5-dimethyl-phenyl)-(6-chloro-pyrimidin-4-yl)-methanone | C(C1=CC=CC=C1)OC1=C(C=C(C=C1C)C(=O)C1=NC=NC(=C1)Cl)C | C20H17ClN2O2
